US06486190B1
A mixture of N-(1-t-butoxycarbonyl-2,4-dimethyl-5-benzimidazolyl)-N′-2-aminoethylthiourea (1.33 g, 3.66 mmol) and mercuric acetate (1.45 g, 4.54 mmol) in methanol (150 mL) is stirred at room temperature for 1 hour. The resulting black mixture is filtered on Celite with a methanol wash of the solids. The filtrate is rotary evaporated and the residue is purified by flash chromatography on a short pad of silica gel, eluting with 10% methanol/chloroform containing 1% of ammonium hydroxide. The product-containing fractions are collected and rotary evaporated to afford 2,4-dimethyl-5-(2-imidazolinylamino)benzimidazole as a white solid.

reactant | N-(1-t-butoxycarbonyl-2,4-dimethyl-5-benzimidazolyl)-N′-2-aminoethylthiourea | 3.66 mmol, 1.33 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2C)NC(=S)NCCN)C | C17H25N5O2S
solvent | methanol | 150 mL | CO | CH4O
product | 2,4-dimethyl-5-(2-imidazolinylamino)benzimidazole | CC=1NC2=C(N1)C=CC(=C2C)NN2C=NCC2 | C12H15N5
